US04707487
1-(p-FLUOROBENZYL)-4-(4-IMIDAZOLYL)PIPERIDINE
To a solution of 1.5 g of 4-(4-imidazolyl)piperidine in 75 cm3 of dimethyl formamide, 2 g of potassium carbonate and 1.5 g of p-fluorobenzyl chloride are added. The mixture is then heated to 80° C. with stirring for 2 hours. The mixture is filtered and the filtrate evaporated under reduced pressure. The residue is recrystallized in acetonitrile. White crystals, M.p. 232° C.

reactant | 4-(4-imidazolyl)piperidine | 1.5 g | N1C=NC(=C1)C1CCNCC1 | C8H13N3
reactant | potassium carbonate | 2 g | C([O-])([O-])=O.[K+].[K+]
reactant | p-fluorobenzyl chloride | 1.5 g | FC1=CC=C(CCl)C=C1 | C7H6ClF
solvent | dimethyl formamide | 75 cm3 | CN(C=O)C | C3H7NO
product | 1-(p-FLUOROBENZYL)-4-(4-IMIDAZOLYL)PIPERIDINE | FC1=CC=C(CN2CCC(CC2)C=2N=CNC2)C=C1 | C15H18FN3
